US09303000B2
Synthesis of 3-(methylsulfonyl)-5-(trifluoromethyl)benzamide
In a 500-mL, 3-neck round-bottomed flask equipped with an 100-mL pressure-equalizing addition funnel fitted with an nitrogen inlet, and a rubber septum, 3-(methylthio)-5-(trifluoromethyl)benzamide (8.0 g, 1.0 eq.), in acetone (70 mL). Oxone (36.5 g, 2 eq.) was added at RT. The reaction was stirred for 12 h. The progress of the reaction was followed by TLC analysis on silica gel with 30% ethyl acetate-hexane as mobile phase and visualization with UV, SM Rf=0.30 and Product Rf=0.20. Reaction was stirred for 12 h and white solid (Oxone salts) was separated by filtration on a Büchner funnel and washed with acetone (100 mL). The combined acetone layer was concentrated by rotary evaporation (40° C., 20 mmHg) to afford 7.0 g of off white solid. The resulting crude compound off white (7 g) was subjected to further stage Yield (90.4%); Mass: (ES+) 267.89 (M+1).

reactant | 3-(methylthio)-5-(trifluoromethyl)benzamide | 8.0 g, 1.0 eq. | CSC=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C9H8F3NOS
reactant | Oxone | 36.5 g, 2 eq. | OOS(=O)[O-].[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | 3-(methylsulfonyl)-5-(trifluoromethyl)benzamide | CS(=O)(=O)C=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C9H8F3NO3S
